US06977262B2
5-Cyano-4-(2,3-dichlorophenyl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine Hydrochloride
The title compound was prepared from ethyl nipecotate, 2,3-dichlorobenzaldehyde and 3-aminopyrazole in the same manner as in Examples 1001 and 1002.

reactant | ethyl nipecotate | N1CC(C(=O)OCC)CCC1 | C8H15NO2
reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 5-Cyano-4-(2,3-dichlorophenyl)-4,7-dihydro-6-(piperidin-4-yl)-2H-pyrazolo[3,4-b]pyridine Hydrochloride | Cl.C(#N)C=1C(C=2C(NC1C1CCNCC1)=NNC2)C2=C(C(=CC=C2)Cl)Cl | InChI=1S/C18H17Cl2N5.ClH/c19-14-3-1-2-11(16(14)20)15-12(8-21)17(10-4-6-22-7-5-10)24-18-13(15)9-23-25-18;/h1-3,9-10,15,22H,4-7H2,(H2,23,24,25);1H
